US04242350
Pure 3-chloromethyl-5-guanidino-1,2,4-thiadiazole (150 g.) was stirred in ethanol (600 ml.) at 10° and 2-aminoethanethiol hydrochloride (93 g.) added. 18 N NaOH (92 ml.) diluted with water (300 ml.) was then added over 30 minutes at 10°-15°. After 90 minutes further water (600 ml.) was added and the solution was stirred for a further 30 minutes before dimethyl (N-cyanoimido)carbonate (107 g.) was added. The resulting solution was stirred for 60 minutes and then aqueous methylamine (40% w/w, 660 ml.) was added. The mixture was stirred for 18 hours and the product removed by filtration and washed with ethanol/water (1:1 v/v, 2×250 ml.) (164 g., 67%). Crystallisation from ethanol/water 3:1 v/v gave 3-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole.

reactant | 3-chloromethyl-5-guanidino-1,2,4-thiadiazole | 150 g | ClCC1=NSC(=N1)NC(=N)N | C4H6ClN5S
reactant | 2-aminoethanethiol hydrochloride | 93 g | Cl.NCCS
reactant | NaOH | 18 N, 92 ml | [OH-].[Na+]
reactant | dimethyl (N-cyanoimido)carbonate | 107 g | COC(=NC#N)OC | C4H6N2O2
reactant | methylamine | 660 ml | CN | CH5N
solvent | ethanol | 600 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
solvent | water | 600 ml | O | H2O
product | 3-[2-(2-cyano-3-methylguanidino)ethylthiomethyl]-5-guanidino-1,2,4-thiadiazole | C(#N)N=C(NCCSCC1=NSC(=N1)NC(=N)N)NC | C9H15N9S2
